US04631342
The process comprises reacting uracil in an aqueous phosphoric acid solution with elemental fluorine and heating the resultant reaction solution to form 5-fluorouracil.

reactant | uracil | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | fluorine | FF | F2
product | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
